US06696566B2
The 4-cyclopropylamino-2-methylthiopyrimidine-5-carboxaldehyde was prepared as described in Example 1 (steps A through C) starting with ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate (Aldrich Chemical Co.) and cyclopropyl amine (Aldrich Chemical Co.).

reactant | ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate | ClC1=NC(=NC=C1C(=S)OCC)C | C8H9ClN2OS
reactant | cyclopropyl amine | C1(CC1)N | C3H7N
product | 4-cyclopropylamino-2-methylthiopyrimidine-5-carboxaldehyde | C1(CC1)NC1=NC(=NC=C1C=S)C | C9H11N3S
